US07365084B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, 4-methylpentane-2,3-dione-2-oxime and 4-trifluoromethylbenzaldehyde gave 4-iodomethyl-5-isopropyl-2-(4-trifluoromethylphenyl)-oxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | 4-methylpentane-2,3-dione-2-oxime | CC(C(C(C)=NO)=O)C | C6H11NO2
reactant | 4-trifluoromethylbenzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
product | 4-iodomethyl-5-isopropyl-2-(4-trifluoromethylphenyl)-oxazole | ICC=1N=C(OC1C(C)C)C1=CC=C(C=C1)C(F)(F)F | C14H13F3INO
